US07585885B2
2-benzenesulfonyl-6-chloro-isonicotinic acid methyl ester
Mix 2,6-dichloro-isonicotinic acid methyl ester (1 g, 4.85 mmol) and sodium thiophenoxide (0.64 g, 4.85 mmol) in DMF (10 mL) at room temperature for 4 h. Quench with water and extract with dichloromethane. Dry the dichloromethane layer over magnesium sulfate and concentrate. Dissolve the residue in chloroform (30 mL) and add neutral alumina (6 g) and potassium peroxymonosulfate (11.92 g, 19.39 mmol). Reflux for 16 h, concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes) to give the title compound as a white solid (1.4 g, 93%).

reactant | 2,6-dichloro-isonicotinic acid methyl ester | 4.85 mmol, 1 g | COC(C1=CC(=NC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | sodium thiophenoxide | 4.85 mmol, 0.64 g | [S-]C1=CC=CC=C1.[Na+]
reactant | potassium peroxymonosulfate | 19.39 mmol, 11.92 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-benzenesulfonyl-6-chloro-isonicotinic acid methyl ester | 1.4 g, 93% | COC(C1=CC(=NC(=C1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C13H10ClNO4S
